US04082851
A mixture of 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide (8.5g) and phosphorus oxychloride (25 ml) is heated at 120° C. for 2 hours. The mixture is then evaporated in vacuo and the residue is triturated with icewater (120 ml) to yield crude 3-n-butylamino-4-phenoxy5-sulfamylbenzonitrile. After filtration, carefully washing with water, drying and recrystallization from methanol, it is obtained with a melting point of 217°-218° C.

reactant | 3-n-butylamino-4-phenoxy-5-sulfamylbenzamide | 8.5g | C(CCC)NC=1C=C(C(=O)N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H21N3O4S
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-n-butylamino-4-phenoxy5-sulfamylbenzonitrile | C(CCC)NC=1C=C(C#N)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H19N3O3S
